US03937761
Preparation of Di(1-t-butylazo-1,3-dimethylbutyl) Succinate ##EQU19##
To a slurry of 5.97 grams (.0221 moles) of sodium succinate in 75 mls. of dimethylformamide in a 200 beaker, warmed to 35°C in a water bath, was added 9.0 grams (.0442 moles) of 2-t-butylazo-2-chloro-4-methylpentane dropwise. After the addition was complete, the reaction was stirred for 3 hours at room temperature, poured into 200 ml. of cold water and extracted with pentane. The pentane solution was washed with water, dried over anhydrous Na2SO4, filtered, stirred over alumina, filtered and the pentane evaporated to leave 6.0 grams (60% yield) of a light yellow liquid. The crude product was purified by column chromatography using pentane as eluent. The infrared spectrum of the purified product was in agreement with the structure of the desired product.

reactant | sodium succinate | .0221 moles, 5.97 grams | C(CCC(=O)[O-])(=O)[O-].[Na+].[Na+]
reactant | 2-t-butylazo-2-chloro-4-methylpentane | .0442 moles, 9.0 grams | C(C)(C)(C)N=NC(C)(CC(C)C)Cl | C10H21ClN2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Di(1-t-butylazo-1,3-dimethylbutyl) Succinate | 6.0 grams, 60% yield | C(CCC(=O)OC(CC(C)C)(C)N=NC(C)(C)C)(=O)OC(CC(C)C)(C)N=NC(C)(C)C | C24H46N4O4
